US08202868B2
b.1.1: 2-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-isoindole-1,3-dione
1.45 g of 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine (5.28 mmol), 1.5 g of N-(4-bromobutyl)phthalimid (5.28 mmol) and 0.8 g of triethylamine (7.9 mmol) were dissolved in 20 ml of dimethylformamide and stirred for 16 h at room temperature. The reaction mixture was extracted with water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to dryness. The oily residue began to crystallise upon standing, was stirred with acetonitrile, and finally filtered to yield 0.55 g of the title compound.

reactant | 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine | 5.28 mmol, 1.45 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CCC1 | C16H26N4
reactant | N-(4-bromobutyl)phthalimid | 5.28 mmol, 1.5 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | triethylamine | 7.9 mmol, 0.8 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-{4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-isoindole-1,3-dione | 0.55 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCC1 | C28H37N5O2
